US05164391
(2S,4S)-N-Ethyl-1'-(3-chloropropyl)-6-fluoro-2',5'-dioxospiro[chroman-4,4'-imidazolidine]-2-carboxamide
To a solution of (2S,4S)-N-ethyl-6-fluoro-2',5'-dioxospiro[chroman-4,4'-imidazolidine]-2-carboxamide (21.0 g, 68.4 mmol) in N,N-dimethylformamide (100 ml, 1.29 mmol) was added 1-bromo-3-chloropropane (21.5 g, 137 mmol). After adding 60% NaH (2.75 g, 68.8 mmol) over 30 minutes at 15°-20° C., the mixture was stirred for 15 hours at 15°-25° C. The reaction mixture was poured into iced water (500 ml), extracted with AcOEt (1000 ml×3), dried over MgSO4. The solvent was distilled off, the residue was chromatographed on silica gel, eluted with CH2Cl2 -CH2Cl2 /MeOH (9/1), and recrystallized from AcOEt to give the desired compound (19.3 g, 73.8%) as colorless prism crystals.

reactant | (2S,4S)-N-ethyl-6-fluoro-2',5'-dioxospiro[chroman-4,4'-imidazolidine]-2-carboxamide | 68.4 mmol, 21.0 g | C(C)NC(=O)[C@H]1OC2=CC=C(C=C2[C@@]2(NC(NC2=O)=O)C1)F | C14H14FN3O4
reactant | 1-bromo-3-chloropropane | 137 mmol, 21.5 g | BrCCCCl | C3H6BrCl
reactant | NaH | 68.8 mmol, 2.75 g | [H-].[Na+]
catalyst | N,N-dimethylformamide | 1.29 mmol, 100 ml | CN(C=O)C | C3H7NO
solvent | water | 500 ml | O | H2O
product | (2S,4S)-N-Ethyl-1'-(3-chloropropyl)-6-fluoro-2',5'-dioxospiro[chroman-4,4'-imidazolidine]-2-carboxamide | 19.3 g, 73.8% | C(C)NC(=O)[C@H]1OC2=CC=C(C=C2[C@@]2(NC(N(C2=O)CCCCl)=O)C1)F | C17H19ClFN3O4
